US08278457B2
Step 3. Synthesis of cis-N-{2-[(6-bromopyridin-3-yl)oxy]cyclohexyl}-propane-2-sulfonamide
The title compound of Step 3 was prepared according to the general procedure for the synthesis of cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide in Example 5, except that cis-2-[(6-bromopyridin-3-yl)oxy]cyclohexanamine was used in place of cis-2-(4-bromophenoxy)cyclopentanamine, and the 4-(dimethylamino)pyridine was omitted. The silica gel chromatography in this case was carried out with an eluant of 2% methanol in dichloromethane, to provide cis-N-{2-[(6-bromopyridin-3-yl)oxy]cyclohexyl}propane-2-sulfonamide as a beige foam. Yield: 7.96 g, 21.1 mmol, 72%. 1H NMR (500 MHz, CDCl3) δ 1.34 (d, J=6.8 Hz, 3H), 1.35 (d, J=6.7 Hz, 3H), 1.35-1.52 (m, 4H), 1.79-1.85 (m, 3H), 2.02 (m, 1H), 3.11 (septet, J=6.8 Hz, 1H), 3.53 (m, 1H), 4.59 (br s, 1H), 4.68 (m, 1H), 7.19 (dd, J=8.7, 3.1 Hz, 1H), 7.38 (d, J=8.7 Hz, 1H), 8.07 (d, J=3.2 Hz, 1H).

reactant | cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide cis-N-[2-(4-bromophenoxy)cyclopentyl]propane-2-sulfonamide | BrC1=CC=C(O[C@@H]2[C@@H](CCC2)NS(=O)(=O)C(C)C)C=C1.BrC1=CC=C(O[C@@H]2[C@@H](CCC2)NS(=O)(=O)C(C)C)C=C1 | 2C14H20BrNO3S
reactant | cis-2-[(6-bromopyridin-3-yl)oxy]cyclohexanamine | BrC1=CC=C(C=N1)O[C@@H]1[C@@H](CCCC1)N | C11H15BrN2O
reactant | methanol | CO | CH4O
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-N-{2-[(6-bromopyridin-3-yl)oxy]cyclohexyl}propane-2-sulfonamide | BrC1=CC=C(C=N1)O[C@@H]1[C@@H](CCCC1)NS(=O)(=O)C(C)C | C14H21BrN2O3S
